US08022222B2
Using the method of Example 3, Step B, 4-methylthiazol-2-amine (0.244 g, 2.14 mmol), 2-chloro-4-(2,6-dimethylphenoxy)pyridine (0.500 g, 2.14 mmol), potassium phosphate (0.500 g, 2.35 mmol), Pd2(dba)3 (0.098 g, 0.107 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.062 g, 0.107 mmol) were reacted to provide N-(4-(2,6-dimethylphenoxy)pyridin-2-yl)-4-methylthiazol-2-amine (0.290 g, 44% yield). 1H NMR (d6-DMSO) δ 10.93 (s, 1H), 8.13 (d, 1H), 7.15-7.22 (m, 3H), 6.50 (s, 1H), 6.40 (d, 1H), 6.39 (s, 1H), 2.19 (s, 3H), 2.08 (s, 6H).

reactant | 4-methylthiazol-2-amine | 2.14 mmol, 0.244 g | CC=1N=C(SC1)N | C4H6N2S
reactant | 2-chloro-4-(2,6-dimethylphenoxy)pyridine | 2.14 mmol, 0.500 g | ClC1=NC=CC(=C1)OC1=C(C=CC=C1C)C | C13H12ClNO
reactant | potassium phosphate | 2.35 mmol, 0.500 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.107 mmol, 0.062 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | Pd2(dba)3 | 0.107 mmol, 0.098 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(4-(2,6-dimethylphenoxy)pyridin-2-yl)-4-methylthiazol-2-amine | 0.290 g, 44% yield | CC1=C(OC2=CC(=NC=C2)NC=2SC=C(N2)C)C(=CC=C1)C | C17H17N3OS
